US07595315B2
4-Benzyl-2-(1,2-diphenyl-vinyl)-morpholine
To a cooled solution of KHMDS (0.5M in toluene, 40 ml, 20 mmol) at 0° C. under nitrogen is added diethyl benzyl phosphonate (available from Aldrich Chemical Company) (4. 1 ml, 19.7 mmol). The reaction is held at this temperature and stirred for 30 minutes then warmed to room temperature and after 10 minutes a solution of racemic (4-benzyl-morpholin-2-yl)-phenyl-methanone (5.03 g, 17.9 mmol in 25 ml of dry tetrahydrofuran) is added dropwise and the reaction allowed to stir for 30 minutes. At the end of this time the reaction solvent is removed under reduced pressure and replaced with diethyl ether prior to quenching with water. After extraction with diethyl ether and drying (MgSO4) the solvent is again removed under reduced pressure and replaced with methanol at which point a white precipitate forms. The solution is filtered and the cake washed with cold methanol and air-dried. The methanolic solution is further purified using SCX-2 chromatography followed by silica gel chromatography to provide the required material, which is combined with the white precipitate previously obtained.

reactant | KHMDS | 20 mmol, 0.5M, 40 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | racemic (4-benzyl-morpholin-2-yl)-phenyl-methanone | 17.9 mmol, 25 ml, 5.03 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC=CC=C1 | C18H19NO2
product | 4-Benzyl-2-(1,2-diphenyl-vinyl)-morpholine | C(C1=CC=CC=C1)N1CC(OCC1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C25H25NO
